* Model using LTspice Version 4 or later
* GaNPower Int'l Inc. EHEMT
* Level 10  Version 2.0                                          *
*                                                               *
* Model constructed based on published sesearch papers. 
* GaNPower Int'l does not assume liability for its use.
* For tech questions, please contact www.iganpower.com
*                                                               *
* Key reference:
* H. Li, X. Zhao, W. Su, K. Sun, X. You and T. Q. Zheng, 
* "Nonsegmented PSpice Circuit Model of GaN HEMT With Simulation 
* Convergence Consideration," in IEEE Transactions on Industrial 
* Electronics," vol. 64, no. 11, pp. 8992-9000, Nov. 2017.
* 
*  Model calibrated using data EHEMT 650V 60A 
*  Model name GPI65060DFN
*****************************************************************
*
.subckt GPI65060DFN gatein drainin sourcein
*
*
*****************************************************************



*****************************************************************
* DO NOT ALTER THE FOLOWING INTERNAL PARAMETERS
*****************************************************************

  .param ai_fac=4.  cap_fac=1.  res_fac=0.3125

*
*
rd drainin drain {0.05*res_fac} tc=0.0135
rs sourcein source {0.02*res_fac} tc=0.0135
rg gatein gate {0.38*res_fac}
*
*
bswitch drain source I = (if (v(drain,source)>0,
           +	(1.1*ai_fac*1.6*(0.8*PWR((Temp-25+273)/300,-2.7))*log(1.0+exp(13*(v(gate,source)-1.7-0.001*(Temp-25))))*
+	v(drain,source)/(1 + max(0.5+0.2*(v(gate,source)+4.1),0.2)*v(drain,source))),
           +	(-1.1*ai_fac*1.6*(0.8*PWR((Temp-25+273)/300,-2.7))*log(1.0+exp(10.5*(v(gate,drain)-1.7-0.001*(Temp-25))))*
+	v(source,drain)/(1 + max(0.5+0.2*(v(gate,drain)+6.1),0.2)*v(source,drain)))) )
*
*

           C_SG   source  gate  Q=1e-12*x*cap_fac*420.0

           C_GD   gate drain    Q=1e-12*x*cap_fac*
           +      (6.+140.0/(1+PWR(x/20.,2)))
* in case of convergence difficulty, try to use a constant of 20pF at 100V

           C_SD   source drain  Q=1e-12*x*cap_fac*
           +      (109.+975/(1+PWR(x/75.,2))-140/(1+PWR(x/20.,2)))
* in case of convergence difficulty, try a constant of 350pF at 100V

.ends
*$
